US05240938
Step A: Preparation of methyl 2-(2-ethoxy-4-formylphenoxy)phenylacetate
Using the K2CO3 /acetone conditions for phenol alkylation described in Step A of Example 30, 1.00 g (6.02 mmol) of 3-ethoxy-4-hydroxybenzaldehyde was alkylated with 1.52 g (6.62 mmol) of methyl 2-bromophenylacetate to afford 1.74 g (92%) of the title compound.

reactant | K2CO3 acetone | C(=O)([O-])[O-].[K+].[K+].CC(=O)C
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 3-ethoxy-4-hydroxybenzaldehyde | 6.02 mmol, 1.00 g | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | methyl 2-bromophenylacetate | 6.62 mmol, 1.52 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
product | methyl 2-(2-ethoxy-4-formylphenoxy)phenylacetate | 1.74 g, 92% | C(C)OC1=C(OC2=C(C=CC=C2)CC(=O)OC)C=CC(=C1)C=O | C18H18O5
